US08664288B2
1-Acetyl-1,3-dicyclohexyl-O—(N-isopropylideneamino)-isourea (Cmpd. 16)
To a solution of 1,3-dicyclohexyl-O—(N-isopropylideneamino)-isourea (Cmpd. 3) (16.7 g, 60 mmol) and 4-dimethylaminopyridine (180 mg) in pyridine (40 ml) is added acetic anhydride (8.9 ml, 90 mmol). The mixture is stirred 2 h and then evaporated under reduced pressure. The residue is diluted with hexane (150 ml), washed with water (5×20 ml), dried over MgSO4 and evaporated. The solid residue is recrystallized from hexane to afford 13.3 g of the title compound as white crystals, mp 74-78° C.

reactant | 1,3-dicyclohexyl-O—(N-isopropylideneamino)-isourea | 60 mmol, 16.7 g | C1(CCCCC1)NC(ON=C(C)C)=NC1CCCCC1 | C16H29N3O
reactant | acetic anhydride | 90 mmol, 8.9 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 180 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-1,3-dicyclohexyl-O—(N-isopropylideneamino)-isourea | 13.3 g | C(C)(=O)N(C(ON=C(C)C)=NC1CCCCC1)C1CCCCC1 | C18H31N3O2
